US07060827B2
In like manner to the preparation of 2-chloro-5-fluoro-N4-[3-(1H-tetrazol-5-yl)phenyl]-4-pyrimidineamine the reaction of 2,4-dichloro-5-fluoropyrimidine with 2-amino-4-methylpyridine gave 2-chloro-5-fluoro-N4-(4-methylpyridin-2-yl)-4-pyrimidineamine. 1H NMR (CDCl3): δ 8.22 (s, 1H), 8.16 (d, 1H, J=8.4 Hz), 8.13 (d, 1H, J=2.4 Hz), 6.91 (d, 1H, J=5.4 Hz), 2.42 (s, 3H); LCMS: purity: 87%; MS (m/e): 239 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 2-amino-4-methylpyridine | NC1=NC=CC(=C1)C | C6H8N2
product | 2-chloro-5-fluoro-N4-(4-methylpyridin-2-yl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=NC=CC(=C1)C)F | C10H8ClFN4
